Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Zocor / Crestor / Lipitor
 
Attending: ___.
 
Chief Complaint:
RUL lung nodule
 
Major Surgical or Invasive Procedure:
___ VATS Right Upper Lobe Wedge Resection 

 
History of Present Illness:
___ is an ___ with a RUL nodule found incidentally 
on CT during a work up for abdominal pain. She endorse ___ pound 
weight loss over several moths which she felt was due to changes 
in her diet, given abdominal pain and reflux.  Otherwise she had 
an occasional dry cough (but no hemoptysis), and reflux.  She 
denied CP, SOB, dysuria/hematuria, fevers, chills.  She saw Dr. 
___ in the office on ___ and again on ___.  
In the intervening time, she had an FDG-PET scan which showed 
that the nodule was FDG avid.  The lesion was felt to be 
concerning and thus the patient was taken to the operating room 
on ___ for a VATS wedge resection for diagnostic and 
therapeutic purposes.
 
Past Medical History:
H. Pylori gastritis
Gastritis with metaplasia
GERD
Hypothyroidism
Hyperlipidemia
Fibroid uterus with ovarian cyst
Monoclonal gammopathy
Left scalp paresthesias
Distal dysesthesia
Bilateral numbness of feet related to lumbosacral radiculopathy
Back and neck pain (chronic)
 
Social History:
___
Family History:
Positive for hepatitis C, hemophilia

 
Physical Exam:
Physical Examination on Admission:
Gen: NAD
HEENT: OP clear
Pulmonary: clear
CV: rrr
ABD: s/nt/nd
Skin: warm/dry/no rashes
Neuro: grossly intact

Physical Examination on Discharge
VS: afebrile, VSS
Gen: alert, NAD
Lungs: CTAB, decreased breath sounds at the bases bilaterally; 
chest tube site wound moist with minimal serosanguineous 
staining, but dressing intact
Cardiac: RRR, S1/S2 normal, no M/R/G
Abd: soft, nontender, nondistended
Extremities: no edema, cords, tenderness bilateral legs;
- RUE: two small excoriations of the skin of the right wrist, 
appearing almost as de-roofed blisters, minimally pink, not 
erythematous or with discharge
 
Pertinent Results:
___ 09:58AM BLOOD WBC-11.3*# RBC-3.60* Hgb-10.8* Hct-33.4* 
MCV-93 MCH-30.0 MCHC-32.3 RDW-13.6 Plt ___
___ 09:58AM BLOOD Glucose-176* UreaN-21* Creat-0.9 Na-140 
K-3.5 Cl-104 HCO3-25 AnGap-15
___ 09:58AM BLOOD Calcium-8.6 Phos-3.8 Mg-1.9

Intra-operative gram stain ___: 1+ PMNs but no 
microorganisms.  Cultures revealed no growth.  ___ prep of the 
lesion was negative for fungus.  Acid fast and fungal cultures 
were pending at the time of discharge.
 
Brief Hospital Course:
The patient was taken to the operating room on ___ for a 
VATS right upper lobe wedge resection.  The surgeon was Dr. 
___.  Please see the operative note for 
details.  A non-tunneled chest tube in the right chest was left 
in plae.  The patient tolerated the procedure well, was taken to 
the PACU where an air leak was noted in the pleurovac but there 
were otherwise no events.  Her vital signs remained stable.  She 
was taken to the floor for monitoring.

She was started on a diet of clears, which she tolerated well.  
Her pain was controlled with Percocet.  Chest tube was kept to 
water seal.  The air leak decreased throughout POD#1.  Her diet 
was advanced to regular, which she tolerated well.

By POD#2 her pain requirement had decreased and she was very 
comfortable.  There was no air leak, and so the chest tube was 
pulled and an occlusive dressing put on the former site.  
Post-pull chest X-ray demonstrated a small hydropneumothorax not 
significantly increased in size from the day before.  The 
patient was doing clinically well after removal of the chest 
tube.  On ___, she was ambulating independently, 
tolerating a regular diet, with pain well-controlled, and she 
was found by physical therapy to be ready to discharge to home.  
She was sent home with services including ___ for dressing 
inspection and removal, and home health aide for care needs.
 
Medications on Admission:
Aspirin 81', Omeprazole 20', Amlodipine 7.5 mg ily, Pravastatin 
10', Levothyroxine 25mcg', Calcitrate, Garlic, MVI, Gas-X
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*25 Tablet(s)* Refills:*0*
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. pravastatin 20 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

4. levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. amlodipine 2.5 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): Take this stool softener if taking Percocet.  
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. Aspirin Low Dose 81 mg Tablet, Delayed Release (E.C.) Sig: 
One (1) Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Upper Lobe Lung Nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, cough (it is normal to cough up 
blood tinge sputum for a few days) or chest pain
-Incision develops drainage

Inicision Care: 
-You may remove the dressings over your chest tube site after 72 
hours and cover site with a bandaid until healed.  DO NOT remove 
the dressing before this time.
-Should chest tube site begin to drain, reinforce the site as 
needed.  Again, DO NOT remove the dressing, as the hole in the 
chest wall is still healing, and removing the dressing may allow 
air to enter the chest wall and deflate the lung.

Pain
-Acetaminophen 650 every 6 hours as needed for pain
-You will be given a prescription for Percocet.  Take ___ 
tablets every ___ hours as needed for pain.  DO NOT TAKE TYLENOL 
WHILE TAKING PERCOCET, as it contains Tylenol.
-No driving while taking narcotics
-Take stool softners with narcotics

Activity
-Wait 48 hours to shower until chest tube dressing is removed. 
After this has been removed, you may wash your incisions gently 
with mild soap & water, rinse, pat dry
-No tub bathing, swimming or hot tubs until incision healed
-No lotions or creams to incision site
-No lifting greater than 10 pounds until seen
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily
 
Followup Instructions:
___